US07989480B2
{(S)-2-[4-(4-chloro-phenoxy)-phenyl]-1-hydroxyaminomethyl-ethyl}-carbamic acid tert-butyl ester
To a solution of {(S)-2-[4-(4-chloro-phenoxy)-phenyl]-1-formyl-ethyl}-carbamic acid tert-butyl ester (68 mg, 0.18 mmol, 1 eq.) in THF (0.5 ml) and methanol (4 ml) was added hydroxylamine HCl salt (75 mg, 1 mmol, 5.6 eq.) followed by triethylamine (0.2 ml, 1.5 mmol, 8.3 eq.). The mixture was shaken in a shaker at room temperature overnight. Sodium cyanoborohydride (10 mg, 0.29 mmol, 1.6 eq.) was added in one portion. Then 4 N HCl in dioxane was added dropwise until the reaction mixture was acidic. The mixture was stirred at room temperature for 2 hr. Then the reaction mixture was concentrated to dryness. The residue was partitioned between water and ethyl acetate. NaOH aq. was added to bring pH of the mixture to 10. After excess NH4Cl aq. was added, the mixture was extracted with ethyl acetate. After dried over anhydrous MgSO4, the volatile material was removed under reduced pressure and the residue was purified by chromatography on silica gel using DCM/MeOH (100:1 to 25:1) as eluent to give the desired product (76 mg, 100% yield) as white solid, which was re-purified by chromatography on silica gel using EA/hexane (1:2 to 2:1) followed by EA as eluent to give the desired product (52 mg, 73% yield).

reactant | {(S)-2-[4-(4-chloro-phenoxy)-phenyl]-1-formyl-ethyl}-carbamic acid tert-butyl ester | 0.18 mmol, 68 mg, 1 eq. | C(C)(C)(C)OC(N[C@@H](CC1=CC=C(C=C1)OC1=CC=C(C=C1)Cl)C=O)=O | C20H22ClNO4
reactant | hydroxylamine HCl salt | 1 mmol, 75 mg, 5.6 eq. | Cl.NO
reactant | triethylamine | 1.5 mmol, 0.2 ml, 8.3 eq. | C(C)N(CC)CC | C6H15N
reactant | Sodium cyanoborohydride | 0.29 mmol, 10 mg, 1.6 eq. | C(#N)[BH3-].[Na+]
reactant | HCl | 4 N | Cl | ClH
solvent | THF | 0.5 ml | C1CCOC1 | C4H8O
solvent | methanol | 4 ml | CO | CH4O
solvent | dioxane | O1CCOCC1 | C4H8O2
product | {(S)-2-[4-(4-chloro-phenoxy)-phenyl]-1-hydroxyaminomethyl-ethyl}-carbamic acid tert-butyl ester | 76 mg, 100% yield | C(C)(C)(C)OC(N[C@@H](CC1=CC=C(C=C1)OC1=CC=C(C=C1)Cl)CNO)=O | C20H25ClN2O4
